US05356904
1-{1-[4-(4-Pentenyloxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (2 g) is dissolved in dichloromethane (50 ml) and thereto is added gradually m-chloroperbenzoic acid (1.6 g) at room temperature. The mixture is stirred under the same conditions overnight and the reaction mixture is poured into aqueous sodium hydrogen carbonate solution and the mixture is extracted with chloroform and dried with magnesium sulfate. The solvent is distilled off and the resulting residue is purified by silica gel column chromatography (solvent: n-hexane:ethyl acetate=1:1) to give 1-{1-[4-(3-oxiranylpropoxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (1.5 g).

reactant | 1-{1-[4-(4-Pentenyloxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 2 g | C(CCC=C)OC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C26H30N2O3
reactant | m-chloroperbenzoic acid | 1.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-{1-[4-(3-oxiranylpropoxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 1.5 g | O1C(C1)CCCOC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C26H30N2O4
